US04670421
Ethyl 4-[14-(trimethylsilyl)tetradecylamino]hippurate
A solution of 20 g. 4-[14-(trimethylsilyl)tetradecylamino]benzoyl chloride hydrochloride in 100 ml. dioxane is added to 4.9 g. freshly prepared ethyl glycinate in 300 ml. of methylene chloride containing 1 g. of 4-(dimethylamino)pyridine and 10 ml. of triethylamine. After 16 hours at room temperature the reaction is refluxed for 2 hours, cooled and filtered. The mother liquor is extracted with water and 10% hydrochloric acid. The solution is dried and concentrated in vacuo to an amber liquid. A sample is chromatographed on silica, appropriate fractions are pooled and evaporated to yield a solid which is recrystallized to a white solid.

reactant | 4-[14-(trimethylsilyl)tetradecylamino]benzoyl chloride hydrochloride | Cl.C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)Cl)C=C1)(C)C
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | ethyl glycinate | NCC(=O)OCC | C4H9NO2
reactant | methylene chloride | 1 g | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Ethyl 4-[14-(trimethylsilyl)tetradecylamino]hippurate | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(NCC(=O)OCC)=O)C=C1)(C)C | C28H50N2O3Si
